US07335658B2
6-[4-(2-TRIFLUOROMETHYLBENZOYL)PIPERAZIN-1-YL]PYRIDAZINE-3-CARBOXYLIC ACID Heptylamide
Following the procedure of Example 15, making variations only as required to use 6-chloropyridazine-3-carboxylic acid heptylamide in place of 6-chloropyridazine-3-carboxylic acid (2-cyclopropyl-2-hydroxyethyl)amide to react with piperazin-1-yl-(2-trifluoromethyl-phenyl)methanone, the title compound was obtained as a white powder (41% yield). 1H NMR (300 MHz, CDCl3) δ 8.05, 7.85, 7.72, 7.58, 7.34, 6.98, 4.03, 3.94-3.64, 3.47-3.28, 1.58, 1.32-1.25, 0.84. 13C NMR (75 MHz, CDCl3) δ 167.6, 162.9, 160.0, 145.5, 134.3, 132.4, 129.5, 126.9, 126.3, 125.4, 121.8, 112.6, 46.4, 44.5, 41.3, 39.4, 31.7, 29.6, 29.0, 26.9, 22.6, 14.1. MS (ES+) m/z 478.2 (M+1).

reactant | 6-chloropyridazine-3-carboxylic acid heptylamide | C(CCCCCC)NC(=O)C=1N=NC(=CC1)Cl | C12H18ClN3O
reactant | piperazin-1-yl-(2-trifluoromethyl-phenyl)methanone | N1(CCNCC1)C(=O)C1=C(C=CC=C1)C(F)(F)F | C12H13F3N2O
product | 6-[4-(2-TRIFLUOROMETHYLBENZOYL)PIPERAZIN-1-YL]PYRIDAZINE-3-CARBOXYLIC ACID Heptylamide | C(CCCCCC)NC(=O)C=1N=NC(=CC1)N1CCN(CC1)C(C1=C(C=CC=C1)C(F)(F)F)=O | C24H30F3N5O2
